US06573263B2
80 mg (0.19 mmol) of 7-(1-acetyl-4-phenylbutyl)-2-(4-methoxybenzyl)-5-methyl-imidazo[5,1-f][1,2,4]triazin-4(3H)-one are reacted analogously to Example 12 with 9 mg (0.19 mmol) of sodium borohydride to give 7-[1-(1-hydroxyethyl)-4-phenyl-butyl]-2-(4-methoxybenzyl)-5-methylimidazo[5,1-f][1,2,4]triazin-4(3H)-one.

reactant | 7-(1-acetyl-4-phenylbutyl)-2-(4-methoxybenzyl)-5-methyl-imidazo[5,1-f][1,2,4]triazin-4(3H)-one | 0.19 mmol, 80 mg | C(C)(=O)C(CCCC1=CC=CC=C1)C1=NC(=C2C(NC(=NN21)CC2=CC=C(C=C2)OC)=O)C | C26H28N4O3
reactant | sodium borohydride | 0.19 mmol, 9 mg | [BH4-].[Na+]
product | 7-[1-(1-hydroxyethyl)-4-phenyl-butyl]-2-(4-methoxybenzyl)-5-methylimidazo[5,1-f][1,2,4]triazin-4(3H)-one | OC(C)C(CCCC1=CC=CC=C1)C1=NC(=C2C(NC(=NN21)CC2=CC=C(C=C2)OC)=O)C | C26H30N4O3
